### PR TITLE
feat: add intersection on `DHashMap`

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds intersection operation on `DHashMap`/`HashMap`/`HashSet` and provides several lemmas about its behaviour.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 12750d25b5651a87f3ec89d7ec2669c711cbac4f --onto e6b1f1984c27d26d2b9dd29fc7c24129a4ba99da`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-07 16:42:10)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 12750d25b5651a87f3ec89d7ec2669c711cbac4f --onto d47b474e41e4b134239ef70fa3c15778cc771bcf`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-10 18:02:48)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 12750d25b5651a87f3ec89d7ec2669c711cbac4f --onto d464b13569ffd6a2a8cb7e00bbba56e5ab344ac7`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-12 17:47:23)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 12750d25b5651a87f3ec89d7ec2669c711cbac4f --onto 2b85e29cc9828a164f63bcc7ef47581767542460`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-13 19:09:13)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 12750d25b5651a87f3ec89d7ec2669c711cbac4f --onto de073706c5446208065c7479211a3737ff99af25`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-14 20:23:13)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase bef8574b93cacb87c7e9804870341441346a64b5 --onto 8b575dcbf2a3b907044df2233a61b61003eeeb45`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-17 13:20:36)

File: src/Std/Data/DHashMap/Internal/AssocList/Basic.lean [hunk 1]
```diff
@@ -98,7 +98,6 @@ variable {β : Type v}
 def get? [BEq α] (a : α) : AssocList α (fun _ => β) → Option β
   | nil => none
   | cons k v es => bif k == a then some v else get? a es
-
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/AssocList/Basic.lean:101]: Why?

File: src/Std/Data/DHashMap/Internal/Defs.lean [hunk 2]
```diff
@@ -433,10 +447,24 @@ def insertMany {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] [BEq α] [Hashable
     r := ⟨r.1.insertIfNew a b, fun _ h hm => h (r.2 _ h hm)⟩
   return r
 
+/-- Internal implementation detail of the hash map -/
+def interSmallerFn [BEq α] [Hashable α] (m sofar : Raw₀ α β) (k : α) : Raw₀ α β :=
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/Defs.lean:466]: This should be tagged `@[inline]`.

File: src/Std/Data/DHashMap/Internal/Model.lean [hunk 3]
```diff
@@ -452,6 +466,12 @@ theorem get?_eq_get?ₘ [BEq α] [LawfulBEq α] [Hashable α] (m : Raw₀ α β)
 theorem get_eq_getₘ [BEq α] [LawfulBEq α] [Hashable α] (m : Raw₀ α β) (a : α) (h : m.contains a) :
     get m a h = getₘ m a (by exact h) := (rfl)
 
+theorem getEntry_eq_getEntryₘ [BEq α] [Hashable α] (m : Raw₀ α β) (a : α) (h : m.contains a) :
+    getEntry m a h = getEntryₘ m a (by exact h) := (rfl)
+
+theorem getEntry?_eq_getEntry?ₘ [BEq α] [Hashable α] (m : Raw₀ α β) (a : α) :
+    getEntry? m a = getEntry?ₘ m a  := (rfl)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/Model.lean]:
```suggestion
    getEntry? m a = getEntry?ₘ m a := (rfl)
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 4]
```diff
@@ -2757,6 +2776,357 @@ theorem get!_union_of_contains_eq_false_right [EquivBEq α] [LawfulHashable α]
...
+    (h₂ : m₂.val.WF) {k : α} :
+    (m₁.inter m₂).contains k = (m₁.contains k && m₂.contains k) := by
+  simp_to_model [contains, inter] using List.containsKey_filter_containsKey
+
+theorem contains_inter_iff [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF)
+    (h₂ : m₂.val.WF) {k : α} :
+    (m₁.inter m₂).contains k ↔ m₁.contains k ∧ m₂.contains k := by
+  simp_to_model [inter, contains] using List.containsKey_filter_containsKey_iff
+
+theorem not_contains_inter_of_not_contains_left [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]:
```suggestion
theorem contains_inter_eq_false_of_contains_eq_false_left [EquivBEq α] [LawfulHashable α]
```
and similar for many lemmas below.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 5]
```diff
@@ -2757,6 +2776,357 @@ theorem get!_union_of_contains_eq_false_right [EquivBEq α] [LawfulHashable α]
...
+    {k : α} (h : m₂.contains k = false) :
+    (m₁.inter m₂).get? k = none := by
+  revert h
+  simp_to_model [inter, get?, contains] using List.getValueCast?_filter_containsKey_of_not_containsKey_right
+
+/- get -/
+theorem get_inter [LawfulBEq α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
+    {k : α} {h_contains : (m₁.inter m₂).contains k} :
+    (m₁.inter m₂).get k h_contains =
+    m₁.get k (((@contains_inter_iff α β _ _ m₁ m₂ _ _ h₁ h₂ k).1 h_contains).1) := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: I am surprised by your fascination with `@`. Do you not like
```suggestion
    m₁.get k ((contains_inter_iff h₁ h₂).1 h_contains).1 := by
```
for some reason?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 6]
```diff
@@ -2757,6 +2776,357 @@ theorem get!_union_of_contains_eq_false_right [EquivBEq α] [LawfulHashable α]
...
+  revert h
+  simp_to_model [inter, size, contains] using List.length_filter_containsKey_eq_length_left
+
+theorem size_inter_eq_size_right [EquivBEq α] [LawfulHashable α]
+    (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
+    (h : ∀ (a : α), m₂.contains a → m₁.contains a) :
+    (m₁.inter m₂).1.size = m₂.1.size := by
+  revert h
+  simp_to_model [inter, size, contains] using List.length_filter_containsKey_of_length_right
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3209]: I think we were also interested in the lemma that says `m1.size + m2.size = (m1.union m2).size + (m1.inter m2).size`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 7]
```diff
@@ -2757,6 +2776,357 @@ theorem get!_union_of_contains_eq_false_right [EquivBEq α] [LawfulHashable α]
...
+
+/- isEmpty -/
+@[simp]
+theorem isEmpty_inter_left [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) (h : m₁.1.isEmpty):
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]:
```suggestion
theorem isEmpty_inter_left [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) (h : m₁.1.isEmpty) :
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 8]
```diff
@@ -2757,6 +2776,357 @@ theorem get!_union_of_contains_eq_false_right [EquivBEq α] [LawfulHashable α]
...
+
+theorem size_inter_eq_size_right [EquivBEq α] [LawfulHashable α]
+    (h₁ : m₁.val.WF) (h₂ : m₂.val.WF)
+    (h : ∀ (a : α), m₂.contains a → m₁.contains a) :
+    (m₁.inter m₂).1.size = m₂.1.size := by
+  revert h
+  simp_to_model [inter, size, contains] using List.length_filter_containsKey_of_length_right
+
+
+/- isEmpty -/
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3215]: There is also the lemma `(m1.inter m2).isEmpty <-> \fo k, m1.contains k -> m2.contains k = false`.

File: src/Std/Data/DHashMap/Basic.lean [hunk 9]
```diff
@@ -319,7 +331,18 @@ This function always merges the smaller map into the larger map, so the expected
...
 
+/--
+Computes the intersection of the given hash maps. The result will only contain entries from the first map.
+
+This function always merges the smaller map into the larger map, so the expected runtime is
+`O(min(m₁.size, m₂.size))`.
+-/
+@[inline] def inter [BEq α] [Hashable α] (m₁ m₂ : DHashMap α β) : DHashMap α β where
+  inner := Raw₀.inter ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩
+  wf :=  Std.DHashMap.Raw.WF.inter₀ m₁.2 m₂.2
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Basic.lean]:
```suggestion
  wf := Std.DHashMap.Raw.WF.inter₀ m₁.2 m₂.2
```

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 10]
```diff
@@ -1093,6 +1149,20 @@ theorem toListModel_unionₘ [BEq α] [Hashable α] [EquivBEq α] [LawfulHashabl
   · exact toListModel_insertListIfNewₘ ‹_›
   · exact toListModel_insertListₘ ‹_›
 
+theorem wfimp_inter [BEq α] [EquivBEq α] [Hashable α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean]:
```suggestion
theorem wfImp_inter [BEq α] [EquivBEq α] [Hashable α] [LawfulHashable α]
```

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 11]
```diff
@@ -1263,13 +1334,98 @@ theorem wf_union₀ [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α]
...
+  rw [inter]
+  split
+  · apply Raw.WF.filter₀ wh₁
+  · rw [interSmaller]
+    apply @Raw.fold_induction _ _ _ (fun sofar k x => interSmallerFn ⟨m₁, h₁⟩ sofar k) _ _ (·.val.WF) Raw.WF.emptyWithCapacity₀
+    intro acc a b wf
+    rw [interSmallerFn]
+    split
+    · apply Raw.WF.insert₀ wf
+    · apply wf
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean]: This is basically identical to `wfImp_inter0`, and can be dropped. In `Internal/RawLemmas.lean`, in the `wf_trivial` tactic, you can just use `Raw.WF.inter₀` instead of this lemma.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 12]
```diff
@@ -2007,6 +2007,328 @@ theorem get!_union_of_not_mem_right [EquivBEq α] [LawfulHashable α] [Inhabited
...
+  exact @Raw₀.get?_inter_of_contains_eq_false_left _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ m₁.2 m₂.2 k not_mem
+
+theorem get?_inter_of_not_mem_right [LawfulBEq α]
+    {k : α} (not_mem : k ∉ m₂) :
+    (m₁ ∩ m₂).get? k = none := by
+  rw [← contains_eq_false_iff_not_mem] at not_mem
+  exact @Raw₀.get?_inter_of_contains_eq_false_right _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ m₁.2 m₂.2 k not_mem
+
+/- get -/
+theorem get_inter [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: I think this should be a good `simp` lemma.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 13]
```diff
@@ -2007,6 +2007,328 @@ theorem get!_union_of_not_mem_right [EquivBEq α] [LawfulHashable α] [Inhabited
...
+  @Raw₀.isEmpty_inter_right _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ m₁.2 m₂.2 h
+
+theorem isEmpty_inter_iff [EquivBEq α] [LawfulHashable α] :
+    (m₁ ∩ m₂).isEmpty ↔ ∀ k, k ∈ m₁ → k ∉ m₂ := by
+  conv =>
+    rhs
+    ext x
+    rhs
+    rw [← contains_eq_false_iff_not_mem]
+  exact @Raw₀.isEmpty_inter_iff _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ m₁.wf m₂.wf
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]: Here is how would have done this:
```suggestion
  simpa only [mem_iff_contains, Bool.not_eq_true] using
    @Raw₀.isEmpty_inter_iff _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ m₁.wf m₂.wf
```

File: src/Std/Data/HashSet/Basic.lean [hunk 14]
```diff
@@ -243,6 +243,17 @@ This function always merges the smaller set into the larger set, so the expected
 
 instance [BEq α] [Hashable α] : Union (HashSet α) := ⟨union⟩
 
+/--
+Computes the intersection of the given hash sets. The result will only contain entries from the first map.
+
+This function always merges the smaller set into the larger set, so the expected runtime is
+`O(min(m₁.size, m₂.size))`.
```
Comment (TwoFX) [inline src/Std/Data/HashSet/Basic.lean]: This needs to be rewritten.

File: src/Std/Data/DHashMap/Basic.lean [hunk 15]
```diff
@@ -319,7 +331,18 @@ This function always merges the smaller map into the larger map, so the expected
   inner := Raw₀.union ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩
   wf := Std.DHashMap.Raw.WF.union₀ m₁.2 m₂.2
 
+/--
+Computes the intersection of the given hash maps. The result will only contain entries from the first map.
+
+This function always merges the smaller map into the larger map, so the expected runtime is
+`O(min(m₁.size, m₂.size))`.
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Basic.lean]: This needs to be rewritten.

File: src/Std/Data/Internal/List/Associative.lean [hunk 16]
```diff
@@ -5092,6 +5407,285 @@ theorem getEntry?_map [BEq α] [EquivBEq α]
...
+    containsKey k l₁ = false → getValue? k (List.filter (fun p => containsKey p.fst l₂) l₁) = none := by
+  intro h
+  rw [getValue?_filter_containsKey_eq_if_containsKey]
+  · split
+    · rw [@getValue?_eq_none α β _ l₁ k]
+      exact h
+    · rfl
+  · exact dl₁
+
+theorem List.getValue?_filter_of_containsKey_eq_false_right {β : Type v} [BEq α] [EquivBEq α]
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: You are adding a lot of theorems with names like `Std.Internal.List.List.getValue?_filter_of_containsKey_eq_false_right` (note the double `List` namespace) here.

File: src/Std/Data/Internal/List/Associative.lean [hunk 17]
```diff
@@ -5599,6 +6193,346 @@ theorem length_filter_key_eq_length_iff [BEq α] [EquivBEq α] {f : α → Bool}
...
+      contradiction
+    specialize this (by simp)
+    intro h
+    have := Internal.List.fst_mem_keys_of_mem h
+    contradiction
+  case mpr =>
+    intro hyp k
+    simp [hyp]
+
+
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]:
```suggestion
```

**Comment by wkrozowski** [comment]
@TwoFX okay, resolved the whole round of comments

File: src/Std/Data/HashSet/Raw.lean [hunk 18]
```diff
@@ -232,14 +232,27 @@ This function always merges the smaller set into the larger set, so the expected
...
+
+This function always merges the smaller set into the larger set, so the expected runtime is
+`O(min(m₁.size, m₂.size))`.
+-/
+@[inline] def inter [BEq α] [Hashable α] (m₁ m₂ : Raw α) : Raw α :=
+  ⟨HashMap.Raw.inter m₁.inner m₂.inner⟩
+
+instance [BEq α] [Hashable α] : Inter (Raw α) := ⟨inter⟩
+
+section Unverified
```
Comment (TwoFX) [inline src/Std/Data/HashSet/Raw.lean:246]: Please double-check: I think you're creating a semantic merge conflict with the recently-merged #10765 here.

**Review by TwoFX — APPROVED** [review]
Very nice!

File: src/Std/Data/HashSet/Raw.lean (hunk 18 above)
Comment (wkrozowski) [reply src/Std/Data/HashSet/Raw.lean:246]: Okay, merged master into this branch and double checked that everything works.
